US04289772
Ethyl 3-(piperid-4-yl)propionate (7 g) (prepared similarly to Preparation 21 A using ethyl alcohol in place of methyl alcohol) was dissolved in ethanolic methylamine (33%, 50 ml) and heated in a stainless steel bomb for 6 hours at 120°. The mixture was then evaporated to dryness in vacuo and the residue partitioned between 2 N NaOH (20 ml) and chloroform (40 ml). The chloroform layer was dried (Na2CO3) and evaporated to give N-methyl-3-(piperid-4-yl)propionamide (6 g) as a crude oil.

reactant | Ethyl 3-(piperid-4-yl)propionate | 7 g | N1CCC(CC1)CCC(=O)OCC | C10H19NO2
reactant | ethyl alcohol | C(C)O | C2H6O
reactant | methylamine | 50 ml | CN | CH5N
product | N-methyl-3-(piperid-4-yl)propionamide | 6 g | CNC(CCC1CCNCC1)=O | C9H18N2O
